US04420477
To a suspension of 7-aminocephalosporanic acid (12.1 g) and 1-(2-carboxy-2-hydroxyiminoethyl)-1H-tetrazole-5-thiol (9.0 g) in dry acetonitril (60 ml) was added boron trifluoride etherate (25.1 g) and the resulting solution was stirred at 50° for 50 minutes. Water (60 ml) was added and the solution was adjusted to pH 3.5 with conc. aqueous ammonia to give precipitates which were filtered, washed successively with water and acetone, and air-dried to give 7-amino-3-[1-(2-carboxy-2-hydroxyiminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid (13.92 g).

reactant | 7-aminocephalosporanic acid | 12.1 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | 1-(2-carboxy-2-hydroxyiminoethyl)-1H-tetrazole-5-thiol | 9.0 g | C(=O)(O)C(CN1N=NN=C1S)=NO | C4H5N5O3S
reactant | boron trifluoride etherate | 25.1 g | B(F)(F)F.CCOCC
reactant | ammonia | N | H3N
solvent | acetonitril | 60 ml | C(C)#N | C2H3N
solvent | Water | 60 ml | O | H2O
product | 7-amino-3-[1-(2-carboxy-2-hydroxyiminoethyl)-1H-tetrazol-5-yl]thiomethyl-3-cephem-4-carboxylic acid | 13.92 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=NO)C(=O)O)C(=O)O)C1=O | C12H13N7O6S2
